US05102667
N,N'-Carbonyldiimidazole (4.05 g) is added to a solution of 2-(3-indolyl)acetic acid (4.37 g) in dry dichloromethane (100 cc), cooled to +5° C. The mixture is stirred for 1 hour at +5° C. and (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone (7.3 g) is then added. The reaction mixture is stirred at 20° C. for 20 hours, then washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.2-0.063 mm, diameter 7 cm, height 40 cm), eluting with a mixture of ethyl acetate and cyclohexane (70/30 by volume) and collecting 100 cc fractions. Fractions 6 to 11 are concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from acetonitrile (50 cc). The crystals obtained are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-2-[2-(3-indolyl)acetyl]-4-perhydroisoindolone (5 g) melting at 250° C. is obtained.

reactant | 2-(3-indolyl)acetic acid | 4.37 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone | 7.3 g | C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1 | C20H21NO
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-(3-indolyl)acetyl]-4-perhydroisoindolone | 5 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=CNC2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C30H28N2O2
